US04824959
Methyl cis-4-(1,3-pentadienyl)-1,5-dioxaspiro[5.5]undecane-2-acetate
Methyl 3,5-dihydroxy-6,8-decadienoate (7.6 g, 35.5 mmol) and p-toluenesulfonic acid (0.1 g) was added to cyclohexanone (10 g, 100 mmol) and stirred for 16 hours at ambient temperature. The yellow solution was loaded directly onto a silica gel column and the product eluted with diethyl ether:hexane (1:4). The appropriate fractions were combined to give 3.52 g (33.6%) of the title compound as a colorless oil.

reactant | Methyl 3,5-dihydroxy-6,8-decadienoate | 35.5 mmol, 7.6 g | OC(CC(=O)OC)CC(C=CC=CC)O | C11H18O4
reactant | cyclohexanone | 100 mmol, 10 g | C1(CCCCC1)=O | C6H10O
catalyst | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Methyl cis-4-(1,3-pentadienyl)-1,5-dioxaspiro[5.5]undecane-2-acetate | 3.52 g, 33.6% | C(=CC=CC)[C@@H]1C[C@@H](OC2(O1)CCCCC2)CC(=O)OC | C17H26O4
